US05430032
D. 8-CHLORO-5,11-DIHYDRO[1]BENZOXEPINO[4,3-b]PYRIDIN-11-OL
Add sodium borohydride (0.96 g, 25.4 mmole) to 8-chloro[1]benzoxepino[4,3-b]pyridin-11-one (10.00 g, 40.7 mmole) in ethanol (100 mL). Stir for 18 hours at room temperature. Add water (100 mL), and concentrate in vacuo. Add additional water (100 mL), and extract with dichloromethane. Wash the organic solution with saturated NaCl, dry with MgSO4, filter, and concentrate in vacuo. Dissolve the oil in dichloromethane, and chromatograph on silica gel, eluting with 50% ethyl acetate in hexane. Combine the appropriate fractions, and concentrate under reduced pressure to give a white solid (8.50 g, 84% yield): mp 105°-108° C.

reactant | sodium borohydride | 25.4 mmole, 0.96 g | [BH4-].[Na+]
reactant | 8-chloro[1]benzoxepino[4,3-b]pyridin-11-one | 40.7 mmole, 10.00 g | ClC1=CC2=C(C(C3=NC=CC=C3CO2)=O)C=C1 | C13H8ClNO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-CHLORO-5,11-DIHYDRO[1]BENZOXEPINO[4,3-b]PYRIDIN-11-OL | 8.50 g, 84% yield | ClC1=CC2=C(C(C3=NC=CC=C3CO2)O)C=C1 | C13H10ClNO2
